************************************************************************
* auCdl Netlist:
* 
* Library Name:  cad3
* Top Cell Name: loaded_nand
* View Name:     schematic
* Netlisted on:  Nov 20 18:44:37 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!

*.PIN vss!
*+    vdd!

************************************************************************
* Library Name: cad3
* Cell Name:    NAND2
* View Name:    schematic
************************************************************************

.SUBCKT NAND2 a b z
*.PININFO a:I b:I z:O
MNMOS1 net1 b vss! vss! NMOS_VTL W=300n L=50n m=1
MNMOS0 z a net1 vss! NMOS_VTL W=300n L=50n m=1
MPMOS0 z a vdd! vdd! PMOS_VTL W=250.0n L=50n m=1
MPMOS1 z b vdd! vdd! PMOS_VTL W=250.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: cad3
* Cell Name:    loaded_nand
* View Name:    schematic
************************************************************************

.SUBCKT loaded_nand a b z
*.PININFO a:I b:I z:O
XDUT a b z / NAND2
XNAND3 vdd! z net5 / NAND2
XNAND2 vdd! z net4 / NAND2
XNAND0 vdd! z net3 / NAND2
XNAND1 vdd! z net2 / NAND2
.ENDS

